US08304557B2
N-(3-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide
In the same manner as in Reference Example 11 and using 3-aminophenol (2.11 g, 19.3 mmol), triethylamine (2.81 mL, 20.3 mmol), 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (3.07 g, 19.4 mmol) and tetrahydrofuran (30 mL) as starting materials, the title compound (4.00 g, 90%) was obtained as a white solid.

reactant | 3-aminophenol | 19.3 mmol, 2.11 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | triethylamine | 20.3 mmol, 2.81 mL | C(C)N(CC)CC | C6H15N
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 19.4 mmol, 3.07 g | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-(3-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 4.00 g, 90% | OC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C12H13N3O2
